US08207134B2
7) Synthesis of (1S,3′R,4′S,5′S,6′R)-3′,4′,5′-tris-benzyloxy-6′-benzyloxymethyl-8-[(4-ethylphenyl)methyl]-3,3′,4,4′,5′,6′-hexahydro-spiro[2-oxa-9-thia-fluorene-1,2′-[2H]pyran]
Under a nitrogen stream, to a mixture of (1S,3′R,4′S,5′S,6′R)-3′,4′,5′-tris-benzyloxy-6′-benzyloxymethyl-8-chloromethyl-3,3′,4,4′,5′,6′-hexahydro-spiro[2-oxa-9-thia-fluorene-1,2′-[2H]pyran] (41 mg, 0.05 mmol), 4-ethylphenylboronic acid (13.0 mg, 0.08 mmol), potassium phosphate (21.0 mg, 1.00 mmol), palladium acetate (1.2 mg, 0.005 mmol) and triphenylphosphine (2.6 mg, 0.01 mmol) was added toluene (2.6 mg, 0.5 mmol), and the resultant solution was stirred for 4 hours at 80° C. Solvent was concentrated under reduced pressure, and the resulting residue was purified by silica gel column chromatography (developing solution=ethyl acetate:n-hexane (1:3)), to thereby obtain the titled compound (23 mg, 56%).

reactant | (1S,3′R,4′S,5′S,6′R)-3′,4′,5′-tris-benzyloxy-6′-benzyloxymethyl-8-chloromethyl-3,3′,4,4′,5′,6′-hexahydro-spiro[2-oxa-9-thia-fluorene-1,2′-[2H]pyran] | 0.05 mmol, 41 mg | C(C1=CC=CC=C1)O[C@H]1[C@@]2(O[C@@H]([C@@H]([C@@H]1OCC1=CC=CC=C1)OCC1=CC=CC=C1)COCC1=CC=CC=C1)OCCC=1C3=CC=CC(=C3SC12)CCl | C45H43ClO6S
reactant | 4-ethylphenylboronic acid | 0.08 mmol, 13.0 mg | C(C)C1=CC=C(C=C1)B(O)O | C8H11BO2
reactant | potassium phosphate | 1.00 mmol, 21.0 mg | P(=O)([O-])([O-])[O-].[K+].[K+].[K+]
reactant | triphenylphosphine | 0.01 mmol, 2.6 mg | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | toluene | 0.5 mmol, 2.6 mg | C1(=CC=CC=C1)C | C7H8
catalyst | palladium acetate | 0.005 mmol, 1.2 mg | C(C)(=O)[O-].[Pd+2].C(C)(=O)[O-]
product | (1S,3′R,4′S,5′S,6′R)-3′,4′,5′-tris-benzyloxy-6′-benzyloxymethyl-8-[(4-ethylphenyl)methyl]-3,3′,4,4′,5′,6′-hexahydro-spiro[2-oxa-9-thia-fluorene-1,2′-[2H]pyran] | 23 mg, 56% | C(C1=CC=CC=C1)O[C@H]1[C@@]2(O[C@@H]([C@@H]([C@@H]1OCC1=CC=CC=C1)OCC1=CC=CC=C1)COCC1=CC=CC=C1)OCCC=1C3=CC=CC(=C3SC12)CC1=CC=C(C=C1)CC | C53H52O6S
